US07345067B2
Analogously, to example 1.4, crude [4-(tert-butoxycarbonyl-methyl-amino)-2-trifluoromethyl-phenoxy]-acetic acid ethyl ester containing [4-(tert-Butoxycarbonyl-methyl-amino)-2-trifluoromethyl-phenoxy]-acetic acid methyl ester was deprotected with TFA to give (4-methylamino-2-trifluoromethyl-phenoxy)-acetic acid ethyl ester containing (4-methylamino-2-trifluoromethyl-phenoxy)-acetic acid methyl ester as light yellow waxy solid, MS: 278 (MH+) and 264 (MH+).

reactant | [4-(tert-butoxycarbonyl-methyl-amino)-2-trifluoromethyl-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)C(F)(F)F)=O | C17H22F3NO5
reactant | [4-(tert-Butoxycarbonyl-methyl-amino)-2-trifluoromethyl-phenoxy]-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)C(F)(F)F)=O | C16H20F3NO5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (4-methylamino-2-trifluoromethyl-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)NC)C(F)(F)F)=O | C12H14F3NO3
